Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Stage 5 Kidney disease here for pre-emptive kidney transplant
 
Major Surgical or Invasive Procedure:
___ Preemptive live donor renal transplant 

 
History of Present Illness:
The patient is a ___ gentleman with longstanding chronic 
kidney disease secondary to FSGS not yet on renal replacement 
therapy who has been evaluated and accepted for kidney 
transplant. He is part of a three way paired exchange
 
Past Medical History:
chronic kidney disease stage V secondary to FSGS
gout, hypertension, hyperparathyroidism.

left knee surgery.

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals:97.6 PO 122 / 76 L Sitting 66 18 100 Ra 
24 hours ~3150 ml UOP

General: Alert, chronically ill in appearance
HEENT: No pallor. no icterus. 
CV: RRR, normal S1 + S2
Lungs: Clear to auscultation bilaterally
Abdomen: abdomen soft, mildly distended, no guarding or rebound  

- Drain and bandage in place; clean and dry
Ext:no clubbing, cyanosis. No ___
Neuro: No focal deficits. normal speech
.
Weight at discharge: 83.2 kg
 
Pertinent Results:
Labs POD 0: ___
WBC-3.7* RBC-3.57* Hgb-11.5* Hct-35.0* MCV-98 MCH-32.2* 
MCHC-32.9 RDW-13.2 RDWSD-47.2* Plt ___
Glucose-126* UreaN-83* Creat-4.0* Na-139 K-4.7 Cl-108 HCO3-17* 
AnGap-19
Calcium-8.4 Phos-3.9 Mg-1.6
.
Labs at Discharge: ___
WBC-2.7* RBC-3.07* Hgb-9.8* Hct-29.5* MCV-96 MCH-31.9 MCHC-33.2 
RDW-13.4 RDWSD-47.3* Plt Ct-92*
Glucose-104* UreaN-29* Creat-1.6* Na-140 K-4.5 Cl-111* HCO3-20* 
AnGap-14
Calcium-8.5 Phos-2.0* Mg-1.8
tacroFK-6.___ y/o male with history of FSGS, Stage 5 ESRD not yet on 
dialysis who presents for living donation kidney transplant as 
part of a three way paired exchange.

Patient was taken to the OR with Dr. ___. There were 
no apparent complications at the time of surgery, the kidney 
that was received was transplanted with immediate function.

The patient received routine induction to include 1 gram 
mycophenolate pre op, which was continued at one gram BID with 
good tolerance. He received 500 mg Solumedrol intra-op, with 
standard sterois taper to complete by POD 5. He received 100 mg 
thymoglobulin intra-op, and received a total of three doses of 
100 mg each, completed by POD 2. Tacro was started on the 
morning of POD 1, with daily levels checked and dosage adjusted 
per level.
Of note, doth donor and recipient were CMV negative, patient was 
switched to Valacyclovir for home

In the post op period, the patient was making excellent urine, 
and creatinine at the time of transplant was 4.7 on pre op 
testing, and had decreased to 1.6 by day of discharge. 
Medications were renally adjusted as function improved.
Hematocrit was stable.

The patient was taking a regular diet, but slowly by POD 2. Pain 
Management was switched from PCA to oral pain pills with good 
tolerance. 

Patient was passing flatus and had a bowel movement by POD 3. 
The Foley catheter was removed and he was voiding without 
difficulty.
He was ambulatory without assistance.

Daily protein creatinine ratios were checked while hospitalized. 
Initial reading was 1.1, with a mild bump to 1.4 and then down 
to 0.9 by POD 2 and POD 3.

Patient was discharged to home on POD 4 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. irbesartan 300 mg oral DAILY 
4. Metoprolol Succinate XL 150 mg PO DAILY 
5. paricalcitol 1 mcg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pre med/pain 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*15 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*10 Capsule Refills:*0 
3.  Famotidine 20 mg PO BID 
RX *famotidine [Acid Reducer (famotidine)] 20 mg 1 tablet(s) by 
mouth twice a day Disp #*30 Tablet Refills:*0 
4.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 
four (4) hours Disp #*15 Tablet Refills:*0 
5.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 12.5 mg by mouth twice a day Disp 
#*30 Tablet Refills:*0 
6.  Mycophenolate Mofetil 1000 mg PO BID 
RX *mycophenolate mofetil 500 mg 1000 mg by mouth twice a day 
Disp #*30 Tablet Refills:*0 
7.  Nystatin Oral Suspension 5 ml PO QID 
RX *nystatin 100,000 unit/mL 5 ml by mouth four times a day 
Refills:*0 
8.  PredniSONE 25 mg PO ONCE Duration: 1 Dose 
take on ___ (last dose) 
RX *prednisone 50 mg 25 mg by mouth ONCE Disp #*1 Tablet 
Refills:*0 
9.  Sodium Polystyrene Sulfonate 15 gm PO DAILY:PRN for elevated 
potassium 
RX *sodium polystyrene sulfonate [Kalexate] 15 gram 15 gr by 
mouth DAILY Disp #*10 Packet Refills:*0 
10.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth DAILY Disp #*30 Tablet Refills:*0 
11.  Tacrolimus 8 mg PO Q12H 
RX *tacrolimus 5 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*60 Capsule Refills:*0 
12.  ValACYclovir 500 mg PO Q12H Cmv prophylaxis 
RX *valacyclovir 1,000 mg 900 mg by mouth DAILY Disp #*30 Tablet 
Refills:*0 
13.  Allopurinol ___ mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ESRD s/p living unrelated kidney transplant
FSGS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ Carenetwork has been arranged to follow you at home. You 
will receive a call to schedule a home visit
               T: ___
               F: ___

Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, or any other 
concerning symptoms.

Bring your pill box and list of current medications to every 
clinic visit.

You will have labwork drawn every ___ and ___ as 
arranged by the transplant clinic, with results to the 
transplant clinic (Fax ___ . CBC, Chem 10, AST, ALT, 
Alk Phos, T Bili, Trough Tacro level, Urinalysis, 
protein/creatinine ratio

*** On the days you have your labs drawn, do not take your Tacro 
until your labs are drawn. Bring your Tacro with you so you may 
take your medication as soon as your labwork has been drawn.

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. You may leave the incision open to the air. The 
staples are removed approximately 3 weeks following your 
transplant.

No tub baths or swimming

No driving if taking narcotic pain medications

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals, and 
you may supplement with things like carnation instant breakfast 
or Ensure.

Check your blood pressure at home. Report consistently elevated 
values to the transplant clinic

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant.

Consult transplant binder, and there is always someone on call 
at the transplant clinic with any questions that may arise

 
Followup Instructions:
___